US06211199B1
16.3 Synthesis of 3-(3,4-dichlorophenyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-6-oxopiperidine
Combine ethyl 4-cyano-4-(3,4-dichlorophenyl)-6-(t-butyldimethylsilyloxy)hexanoate (9.58 g, 21.55 mmol) and cobalt(II)chloride hexahydrate (10.25 g, 43.1 mmol) in methanol (200 mL). Cool in an ice-bath, add portionwise sodium borohydride (8.15 g, 215.5 mmol). After 18 hours, concentrate the reaction mixture in vacuo to obtain a residue. Dissolve the residue in dichloromethane and extract with 1M hydrochloric acid solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give the title compound: Rf=0.46 (silica gel, 1/1 ethyl acetate/hexane).

reactant | ethyl 4-cyano-4-(3,4-dichlorophenyl)-6-(t-butyldimethylsilyloxy)hexanoate | 21.55 mmol, 9.58 g | C(#N)C(CCC(=O)OCC)(CCO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)Cl | C21H31Cl2NO3Si
reactant | sodium borohydride | 215.5 mmol, 8.15 g | [BH4-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 200 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | cobalt(II)chloride hexahydrate | 43.1 mmol, 10.25 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 3-(3,4-dichlorophenyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-6-oxopiperidine | ClC=1C=C(C=CC1Cl)C1(CNC(CC1)=O)CCO[Si](C)(C)C(C)(C)C | C19H29Cl2NO2Si
